US08440666B2
Ethyl 2-[5-bromo-4-(4-ethoxy-3-methoxybenzylamino)-6-oxopyridazin-1(6H)-yl]acetate
Ethyl 2-(4,5-dibromo-6-oxopyridazin-1(6H)-yl)acetate (500 mg, 1.47 mmol) and 3-ethoxy-4-methoxybenzylamine (960 mg, 4.41 mmol) in 1,4-dioxane-water (1:1, 5 mL) were stirred with triethylamine (0.615 mL) at 100° C. for 2.5 hours. After cooling, ethyl acetate was added, and the organic layer was washed with saturated aqueous ammonium chloride and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was removed by distillation. The resulting residue was purified by silica gel chromatography (chloroform/2-propanol=20/1) to give the desired product (640 mg, 98% yield).

reactant | Ethyl 2-(4,5-dibromo-6-oxopyridazin-1(6H)-yl)acetate | 1.47 mmol, 500 mg | BrC=1C=NN(C(C1Br)=O)CC(=O)OCC | C8H8Br2N2O3
reactant | 3-ethoxy-4-methoxybenzylamine | 4.41 mmol, 960 mg | C(C)OC=1C=C(CN)C=CC1OC | C10H15NO2
reactant | triethylamine | 0.615 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane water | 5 mL | O1CCOCC1.O
product | Ethyl 2-[5-bromo-4-(4-ethoxy-3-methoxybenzylamino)-6-oxopyridazin-1(6H)-yl]acetate | 640 mg, 98% yield | BrC1=C(C=NN(C1=O)CC(=O)OCC)NCC1=CC(=C(C=C1)OCC)OC | C18H22BrN3O5
